Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CO[C:1](=[O:2])[c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[NH2:10]>>[CH2:1]([OH:2])[c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[NH2:10],C[O:101][C:1](=[O:2])[c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[NH2:10].[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[c:3]1[n:4][c:5]([Br:6])[cH:7][n:8][c:9]1[NH2:10],ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][CH2:3][CH2:4][S:5][c:6]1[cH:7][cH:8][cH:9][c:10]2[n:11][cH:12][cH:13][n:14]12.[CH3:15][N:16]1[CH2:17][CH2:18][N:19]([CH:20]=[C:21]2[S:22][C:23](=[O:24])[NH:25][C:26]2=[O:27])[CH2:28][CH2:29]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][S:5][c:6]1[cH:7][cH:8][cH:9][c:10]2[n:11][cH:12][cH:13][n:14]12)[N:25]1[C:23](=[O:24])[S:22][C:21](=[CH:20][N:19]2[CH2:18][CH2:17][N:16]([CH3:15])[CH2:29][CH2:28]2)[C:26]1=[O:27],[Cl:101][CH2:1][CH2:2][CH2:3][CH2:4][S:5][c:6]1[cH:7][cH:8][cH:9][c:10]2[n:11][cH:12][cH:13][n:14]12.[CH3:15][N:16]1[CH2:17][CH2:18][N:19]([CH:20]=[C:21]2[S:22][C:23](=[O:24])[NH:25][C:26]2=[O:27])[CH2:28][CH2:29]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][S:5][c:6]1[cH:7][cH:8][cH:9][c:10]2[n:11][cH:12][cH:13][n:14]12)[N:25]1[C:23](=[O:24])[S:22][C:21](=[CH:20][N:19]2[CH2:18][CH2:17][N:16]([CH3:15])[CH2:29][CH2:28]2)[C:26]1=[O:27],SN2,"[(25, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CS(=O)(=O)O[CH2:1][CH2:2][CH:3]([CH2:4][CH2:5][CH3:6])[O:7][c:8]1[cH:9][cH:10][c:11]2[c:12](-[c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[cH:19][o:20][c:21]2[cH:22]1.[CH3:23][CH2:24][O:25][C:26](=[O:27])[C:28]([CH3:29])([CH3:30])[O:31][c:32]1[cH:33][cH:34][c:35]([OH:36])[cH:37][cH:38]1>>[CH2:1]([CH2:2][CH:3]([CH2:4][CH2:5][CH3:6])[O:7][c:8]1[cH:9][cH:10][c:11]2[c:12](-[c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[cH:19][o:20][c:21]2[cH:22]1)[O:36][c:35]1[cH:34][cH:33][c:32]([O:31][C:28]([C:26]([O:25][CH2:24][CH3:23])=[O:27])([CH3:29])[CH3:30])[cH:38][cH:37]1,CS(=O)(=O)[O:101][CH2:1][CH2:2][CH:3]([CH2:4][CH2:5][CH3:6])[O:7][c:8]1[cH:9][cH:10][c:11]2[c:12](-[c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[cH:19][o:20][c:21]2[cH:22]1.[CH3:23][CH2:24][O:25][C:26](=[O:27])[C:28]([CH3:29])([CH3:30])[O:31][c:32]1[cH:33][cH:34][c:35]([OH:36])[cH:37][cH:38]1.[H-:301].[Na+]>>[CH2:1]([CH2:2][CH:3]([CH2:4][CH2:5][CH3:6])[O:7][c:8]1[cH:9][cH:10][c:11]2[c:12](-[c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)[cH:19][o:20][c:21]2[cH:22]1)[O:36][c:35]1[cH:34][cH:33][c:32]([O:31][C:28]([C:26]([O:25][CH2:24][CH3:23])=[O:27])([CH3:29])[CH3:30])[cH:38][cH:37]1,SN2_alcohol(thiol),"[(301, 36.1), ([36.1, 36], 36), (36, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][c:9]([O:10][CH3:11])[c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[cH:19]1.[CH3:20][O:21][c:22]1[cH:23][cH:24][cH:25][c:26]([NH:27][CH:28]2[CH2:29][CH2:30][N:31]([C:32](=[O:33])[O:34][C:35]([CH3:36])([CH3:37])[CH3:38])[CH2:39][CH2:40]2)[cH:41]1>>[CH2:1]([c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][c:9]([O:10][CH3:11])[c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[cH:19]1)[N:27]([c:26]1[cH:25][cH:24][cH:23][c:22]([O:21][CH3:20])[cH:41]1)[CH:28]1[CH2:29][CH2:30][N:31]([C:32](=[O:33])[O:34][C:35]([CH3:36])([CH3:37])[CH3:38])[CH2:39][CH2:40]1,[CH3:20][O:21][c:22]1[cH:23][cH:24][cH:25][c:26]([NH:27][CH:28]2[CH2:29][CH2:30][N:31]([C:32](=[O:33])[O:34][C:35]([CH3:36])([CH3:37])[CH3:38])[CH2:39][CH2:40]2)[cH:41]1.[Cl:101][CH2:1][c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][c:9]([O:10][CH3:11])[c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[cH:19]1>>[CH2:1]([c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][c:9]([O:10][CH3:11])[c:12]([O:13][CH3:14])[c:15]([O:16][CH3:17])[cH:18]2)[cH:19]1)[N:27]([c:26]1[cH:25][cH:24][cH:23][c:22]([O:21][CH3:20])[cH:41]1)[CH:28]1[CH2:29][CH2:30][N:31]([C:32](=[O:33])[O:34][C:35]([CH3:36])([CH3:37])[CH3:38])[CH2:39][CH2:40]1,SN2,"[(27, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[OH:10][CH2:1][CH3:2].[CH3:3][c:4]1[cH:5][cH:6][c:7]([C:8](=[O:9])O)[cH:11][c:12]1[Br:13]>>[CH2:1]([CH3:2])[O:10][C:8]([c:7]1[cH:6][cH:5][c:4]([CH3:3])[c:12]([Br:13])[cH:11]1)=[O:9],[OH:101][C:8]([c:7]1[cH:6][cH:5][c:4]([CH3:3])[c:12]([Br:13])[cH:11]1)=[O:9].[CH2:1]([CH3:2])[OH:10].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[CH2:1]([CH3:2])[O:10][C:8]([c:7]1[cH:6][cH:5][c:4]([CH3:3])[c:12]([Br:13])[cH:11]1)=[O:9],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (10, 8), ([8, 9], 9), (303, 10.1), ([10.1, 10], 10), (9, [9, 8]), ([8, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
